US04647557
4-benzyl 2-amino thiazole.
10 g of 1-chloro 3-phenyl propan-2-one are added to 3.9 g thiourea in 100 ml ethanol. The mixture is refluxed for 2 hours. After cooling the whole is concentrated under reduced pressure. The residue is taken up in diluted ammonia then extracted with ether. After purifications the so obtained solid is converted into its hydrochloride which melts at 127°. The yield is=79%.

reactant | 1-chloro 3-phenyl propan-2-one | 10 g | ClCC(CC1=CC=CC=C1)=O | C9H9ClO
reactant | thiourea | 3.9 g | NC(=S)N | CH4N2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-benzyl 2-amino thiazole | C(C1=CC=CC=C1)C=1N=C(SC1)N | C10H10N2S
